US08389527B2
A solution of pyrimidin-4-amine (37.0 mg, 0.389 mmol) in degassed dioxane (4 mL) was treated with 6,8-dichloro-N-(pyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (100 mg, 0.325 mmol), Pd2(dba)3 (14.86 mg, 0.016 mmol), 9,9-Dimethyl-4,5-bis(diphenylphosphino)xanthene (9.39 mg, 0.016 mmol), and Cs2CO3 (211 mg, 0.649 mmol). The reaction was purged with argon and heated to 100° C. for 4 hours. The reaction was then cooled to room temperature and concentrated. The crude reaction product was dissolved in a small amount of MeOH, filtered and purified by reversed phase HPLC (YMC ODS-A 5 um 30×250 mm, 10-90% aqueous methanol containing 0.1% TFA, 25 mL/min, 30 min gradient, monitored at 220 nm). The product (retention time=22.555 minutes) was isolated and lyophilized to dryness to afford 6-chloro-N-(pyridin-4-yl)-8-(pyrimidin-4-ylamino)imidazo[1,2-b]pyridazine-3-carboxamide (12 mg, 10.08%). HPLC Rt=2.463 min (YMC S5 ODS 4.6×50 mm, 10-90% aqueous methanol containing 0.2% H3PO4, 4 min gradient, monitored at 220 nm). [M+H+]=367.0.

reactant | pyrimidin-4-amine | 0.389 mmol, 37.0 mg | N1=CN=C(C=C1)N | C4H5N3
reactant | 6,8-dichloro-N-(pyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 0.325 mmol, 100 mg | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC=NC=C2)Cl | C12H7Cl2N5O
reactant | 9,9-Dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.016 mmol, 9.39 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | Cs2CO3 | 0.649 mmol, 211 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
catalyst | Pd2(dba)3 | 0.016 mmol, 14.86 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-chloro-N-(pyridin-4-yl)-8-(pyrimidin-4-ylamino)imidazo[1,2-b]pyridazine-3-carboxamide | 12 mg, 10.08% | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC=NC=C2)NC2=NC=NC=C2 | C16H11ClN8O
